US08383631B2
3-amino-1-[{4-(2,3-dimethylphenyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one (Compound 2)
A target compound (80.9 mg, 0.166 mmol, 47.5%) was yielded as white solid in the same manner as Example 1 by reacting 1-N-t-butoxycarbonyl-3-amino-4,5,6,7-tetrahydro-6-N-(p-tolyl)pyrazolo[3,4-c]pyridin-7-one (120 mg, 0.350 mmol) with potassium carbonate (53.2 mg, 0.385 mmol) and 3-chloro-1-(4-(2,3-dimethylphenyl)piperazin-1-yl)propan-1-one (103.0 mg, 0.367 mmol).

reactant | 1-N-t-butoxycarbonyl-3-amino-4,5,6,7-tetrahydro-6-N-(p-tolyl)pyrazolo[3,4-c]pyridin-7-one | 0.350 mmol, 120 mg | C(C)(C)(C)OC(=O)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)C)=O)N | C18H22N4O3
reactant | potassium carbonate | 0.385 mmol, 53.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1-(4-(2,3-dimethylphenyl)piperazin-1-yl)propan-1-one | 0.367 mmol, 103.0 mg | ClCCC(=O)N1CCN(CC1)C1=C(C(=CC=C1)C)C | C15H21ClN2O
product | 3-amino-1-[{4-(2,3-dimethylphenyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)C)=O)C(CCN2CCN(CC2)C2=C(C(=CC=C2)C)C)=O | C28H34N6O2
